US06462038B1
This compound was prepared by General Method 3 from 3,4-dihydro-7-nitro-2H-1,4-benzoxazine (1.15 g, 6.38 mmol), paraformaldehyde (1.92 g, 64.1 mmol) and NaBH3CN (1.95 g, 30.9 mmol) to afford 1.21 g (98%) of 3,4-dihydro-4-methyl-7-nitro-2H-1,4-benzoxazine, a yellow solid. Data for 3,4-dihydro-4-methyl-7-nitro-2H-1,4-benzoxazine: Rf 0.83 (11.5:1 CH2Cl2:MeOH); 1H NMR (400 MHz, CDCl3) δ 7.82 (dd, 1H, J=9.0, 2.6), 7.65 (d, 1H, J=3.4), 6.56 (d, 1H, J=8.9), 4.27 (t, 2H, J=4.6), 3.46 (t, 2H, J=4.5), 3.05 (s, 3H).

reactant | 3,4-dihydro-7-nitro-2H-1,4-benzoxazine | 6.38 mmol, 1.15 g | [N+](=O)([O-])C1=CC2=C(NCCO2)C=C1 | C8H8N2O3
reactant | paraformaldehyde | 64.1 mmol, 1.92 g | C=O | CH2O
reactant | NaBH3CN | 30.9 mmol, 1.95 g | [BH3-]C#N.[Na+]
product | 3,4-dihydro-4-methyl-7-nitro-2H-1,4-benzoxazine | 1.21 g, 98% | CN1CCOC2=C1C=CC(=C2)[N+](=O)[O-] | C9H10N2O3
